US04533735
A Paar shaker bottle was charged with 0.2 g (0.85 mmol) of 4-(4-chloro-3-nitrophenyl)pyridine, 0.07 g (0.85 mmol) of sodium acetate, 0.02 g of 5% palladium-on-carbon, and 3 ml of glacial acetic acid. It was then charged with hydrogen to 40 psi, and the shaker was turned on. The reaction mixture was heated to 60°-70° C. and maintained at that temperature for two hours, after which the reaction was stopped and the catalyst removed by filtration. To the filtrate was added water and then 50% aqueous caustic to a pH greater than 7. The reaction mixture was extracted with methylene chloride. The methylene chloride fraction was washed, dried, and evaporated. Analysis of the reaction mixture showed that the process resulted in an 83% yield of 4-(3-aminophenyl)pyridine.

reactant | 4-(4-chloro-3-nitrophenyl)pyridine | 0.85 mmol, 0.2 g | ClC1=C(C=C(C=C1)C1=CC=NC=C1)[N+](=O)[O-] | C11H7ClN2O2
reactant | sodium acetate | 0.85 mmol, 0.07 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 0.02 g | [Pd] | Pd
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 4-(3-aminophenyl)pyridine | 83% yield | NC=1C=C(C=CC1)C1=CC=NC=C1 | C11H10N2
